US07759370B2
(R)-2-Amino-2-(5-(4-(octyloxy)-3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)propan-1-ol (6a)
The solution of (S)-tert-butyl 2,2,4-trimethyl-4-(3-(4-(octyloxy)-3-(trifluoromethyl)-phenyl)-3-oxo-propanoyl)oxazolidine-3-carboxylate (27 mg, 0.05 mmol, 1.0 equiv) and hydrazine monohydrate (2.7 μL, 0.055 mmol, 1.1 equiv) in methanol (0.2 mL) was stirred at room temperature for 2 hours. The reaction was condensed and the residue was treated with 20% TFA-DCM for 30 min. After removal of excess amount of TFA and DCM, the crude product was purified by prep. HPLC and afforded the title compound as mono-TFA salt (5.0 mg). MS (ESI, M+H+)=414.0; 1H NMR (400 MHz, CD3OD) δ 7.81 (s, 1H), 7.76 (d, 1H, J=9.2 Hz), 7.14 (d, 1H, J=9.2 Hz), 6.56 (s, 1H), 4.03 (t, 2H, J=6.0 Hz), 3.79, 3.67 (AB, 2H, J=12.0 Hz), 1.76-1.69 (m, 2H), 1.59 (s, 3H), 1.46-1.38 (m, 2H), 1.32-1.16 (m, 8H), 0.81 (t, 3H, J=7.2 Hz).

reactant | (S)-tert-butyl 2,2,4-trimethyl-4-(3-(4-(octyloxy)-3-(trifluoromethyl)-phenyl)-3-oxo-propanoyl)oxazolidine-3-carboxylate | 0.05 mmol, 27 mg, 1.0 equiv | CC1(OC[C@](N1C(=O)OC(C)(C)C)(C(CC(=O)C1=CC(=C(C=C1)OCCCCCCCC)C(F)(F)F)=O)C)C | C29H42F3NO6
reactant | hydrazine monohydrate | 0.055 mmol, 2.7 μL, 1.1 equiv | O.NN
reactant | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | methanol | 0.2 mL | CO | CH4O
product | (R)-2-Amino-2-(5-(4-(octyloxy)-3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)propan-1-ol | N[C@](CO)(C)C1=NNC(=C1)C1=CC(=C(C=C1)OCCCCCCCC)C(F)(F)F | C21H30F3N3O2
